US04395415
61.4 g of 4-nitro-2-trichloromethylbenzenesulfenyl chloride, dissolved in 500 ml of glacial acetic acid, are reacted with 33 g of 1,4-dimethyl-5-cyano-6-mercaptopyridine at 20° C. After 2 hours, the solution is filtered, 500 ml of water are added and the precipitate formed is filtered off, washed with 10% strength sodium carbonate solution and with ether, and dried over potassium hydroxide. 58 g (67% of theory) of 4,6-dimethyl-3-cyano-pyridin-2-yl-dithio-(4-nitro-2-trichloromethylbenzene), of melting point 132° C., are obtained.

reactant | 4-nitro-2-trichloromethylbenzenesulfenyl chloride | 61.4 g | [N+](=O)([O-])C1=CC(=C(C=C1)SCl)C(Cl)(Cl)Cl | C7H3Cl4NO2S
reactant | 1,4-dimethyl-5-cyano-6-mercaptopyridine | 33 g | CN1CC=C(C(=C1S)C#N)C | C8H10N2S
reactant | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 4,6-dimethyl-3-cyano-pyridin-2-yl-dithio-(4-nitro-2-trichloromethylbenzene) | 58 g, 67% | CC1=C(C(=NC(=C1)C)SSC1=C(C=C(C=C1)[N+](=O)[O-])C(Cl)(Cl)Cl)C#N | C15H10Cl3N3O2S2
